US06353006B1
Synthesis of 2-(2-methyl-4-nitrophenylimino)-3-isobutylspiro[1,3-thiazolidine-4,2′-bicyclo[2.2.1]heptane]
(R)-N-Isobutylserine methyl ester HCl salt (Method B3a; 2.28 g, 10.8 mmol) was treated with SOCl2 followed by 2-methyl-4-nitrophenyl isothiocyanate in a manner analogous to Method C2a. The resulting material was purified by column chromatography (SiO2, gradient from hexane to 10% EtOAc/hex) to give 3-isobutyl-4-methylene-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidin-5-one (0.028 g, 10%) followed by (S)-3-isobutyl-4-carbomethoxy-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine HCl salt (0.192 g, 56%). 3-Isobutyl-4-methylene-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidin-5-one: TLC (25% EtOAc/hex) Rf 0.40. (S)-3-isobutyl-4-carbomethoxy-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine HCl salt: TLC (free base, 25% EtOAc/hex) Rf0.50.

reactant | (S)-3-isobutyl-4-carbomethoxy-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidine HCl salt | 0.192 g | Cl.C(C(C)C)N1C(SC[C@@H]1C(=O)OC)=NC1=C(C=C(C=C1)[N+](=O)[O-])C
reactant | 3-Isobutyl-4-methylene-2-(2-methyl-4-nitrophenylimino)-1,3-thiazolidin-5-one | C(C(C)C)N1C(SC(C1=C)=O)=NC1=C(C=C(C=C1)[N+](=O)[O-])C | C15H17N3O3S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-methyl-4-nitrophenylimino)-3-isobutylspiro[1,3-thiazolidine-4,2′-bicyclo[2.2.1]heptane] | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC2(C3CCC(C2)C3)N1CC(C)C | C20H27N3O2S
